US05089496
1-ACETYL-4-(8-CHLORO-5,6-DIHYDRO-3-(1,1-DIMETHYLETHYL)-11H-BENZO[5,6]CYCLOHEPTA[1,2-b]PYRIDIN-11-YLIDENE)-PIPERIDINE N-OXIDE
To a mixture of 450 mg of 1-acetyl-4-(8-chloro-5,6-dihydro-3-(1,1-dimethylethyl)-11H-benzo[5,6]cyclohepta[1,2-b]pyridin-11-ylidene)-piperidine in 30 ml of dry methylene chloride at -10° C. and under a nitrogen atmosphere was added 260 mg of 3-chloroperoxybenzoic acid in four portions ten minutes apart (mCPBA). The reaction mixture was kept at -10° C. for 3 hours and then slowly warmed to room temperature. The next day the mixture was poured into 1.0 N aqueous sodium hydroxide and extracted 3 times with methylene chloride. The combined organic portions were dried over magnesium sulfate, filtered and concentrated in vacuo to give a product which was purified via flash chromatography and triturated with pentane to give 195 mg (42%) of the title compound as a glass.

reactant | 1-acetyl-4-(8-chloro-5,6-dihydro-3-(1,1-dimethylethyl)-11H-benzo[5,6]cyclohepta[1,2-b]pyridin-11-ylidene)-piperidine | 450 mg | C(C)(=O)N1CCC(CC1)=C1C2=C(CCC=3C1=NC=C(C3)C(C)(C)C)C=C(C=C2)Cl | C25H29ClN2O
reactant | 3-chloroperoxybenzoic acid | 260 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | mCPBA | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | sodium hydroxide | 1.0 N | [OH-].[Na+]
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 1-ACETYL-4-(8-CHLORO-5,6-DIHYDRO-3-(1,1-DIMETHYLETHYL)-11H-BENZO[5,6]CYCLOHEPTA[1,2-b]PYRIDIN-11-YLIDENE)-PIPERIDINE N-OXIDE | 195 mg, 42% | C(C)(=O)[N+]1(CCC(CC1)=C1C2=C(CCC=3C1=NC=C(C3)C(C)(C)C)C=C(C=C2)Cl)[O-] | C25H29ClN2O2
